US06432948B1
trans-3-Hydroxy-4-(2-hydroxy-ethylamino)-1-(toluene4-sulphonyl)-pyrrolidine
643.7 g (2.65 mol) of 3-(toluene-4-sulphonyl)-6-oxa-3-aza-bicyclo[3.1.0]hexane are refluxed for 16 hours with 318.5 ml of ethanolamine in 4 l of isopropanol. After TLC checking, a further 35.1 ml (altogether 5.86 mol) of ethanolamine are added to the mixture and it is boiled again until the next morning. The mixture is filtered off with suction whilst hot and the filtrate is concentrated to 3.5 ltr in a rotary evaporator. After seeding and stirring at room temperature, 3.5 l of diisopropyl ether are added and the mixture is stirred at 0° C. for 6 hours. The precipitated crystallizate is filtered off with suction, washed with 250 ml of a mixture of isopropanol/diisopropyl ether (1:1) and twice with 300 ml each of diisopropyl ether and dried overnight in a high vacuum.

reactant | 3-(toluene-4-sulphonyl)-6-oxa-3-aza-bicyclo[3.1.0]hexane | 2.65 mol, 643.7 g | C1(=CC=C(C=C1)S(=O)(=O)N1CC2OC2C1)C | C11H13NO3S
reactant | ethanolamine | 318.5 ml | C(O)CN | C2H7NO
solvent | isopropanol | 4 l | C(C)(C)O | C3H8O
product | trans-3-Hydroxy-4-(2-hydroxy-ethylamino)-1-(toluene4-sulphonyl)-pyrrolidine | O[C@@H]1CN(C[C@H]1NCCO)S(=O)(=O)C1=CC=C(C=C1)C | C13H20N2O4S
